US07429609B2
{3-[(E)-2-(4-Fluorophenyl)vinyl]-1-trityl-1H-pyrazolo[3,4-c]pyridin-5-yl}carbamic acid tert-butyl ester
To a solution of 400 mg of (3-iodo-1-trityl-1H-pyrazolo[3,4-c]pyridin-5-yl)carbamic acid tert-butyl ester and 162 mg of 4-fluorostyrene in 2.0 mL of N,N-dimethylformamide were added 15 mg of palladium acetate, 40 mg of 2-(di-tert-butylphosphino)biphenyl and 0.46 mL of triethylamine at room temperature, and stirred at 80° C. for 6 hours. After diluting with ethyl acetate, the organic layer was washed successively with saturated aqueous ammonium chloride and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated, and the crude product was purified and separated by silica gel column chromatography (ethyl acetate:n-hexane=1:10-dichloromethane:n-hexane=1:1-ethyl acetate:n-hexane=1:3). The resultant crystals were washed with diethyl ether, to afford 270 mg of the title compound as colorless crystals.

reactant | (3-iodo-1-trityl-1H-pyrazolo[3,4-c]pyridin-5-yl)carbamic acid tert-butyl ester | 400 mg | C(C)(C)(C)OC(NC=1C=C2C(=CN1)N(N=C2I)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C30H27IN4O2
reactant | 4-fluorostyrene | 162 mg | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | 2-(di-tert-butylphosphino)biphenyl | 40 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | triethylamine | 0.46 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium acetate | 15 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | {3-[(E)-2-(4-Fluorophenyl)vinyl]-1-trityl-1H-pyrazolo[3,4-c]pyridin-5-yl}carbamic acid tert-butyl ester | 270 mg | C(C)(C)(C)OC(NC=1C=C2C(=CN1)N(N=C2\C=C\C2=CC=C(C=C2)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C38H33FN4O2
